US04145432
To a suspension of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate (1.13 g) in ethanol (15 ml) was added sodium borohydride (80 mg) with stirring under ice-cooling, and this mixture was further stirred for an hour at the same temperature. The reaction mixture was adjusted with dilute hydrochloric acid to pH 6 under ice-cooling and then the solvent was distilled off. To the residue was added water and the aqueous mixture was extracted with diethyl ether. The extract was washed with water and dried over magnesium sulfate. Removal of the solvent gave an oil, which was crystallized by treating with n-hexane. These were crystallized from a mixture of diethyl ether and n-hexane to give pure crystals (900 mg) of 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate, m.p. 99° to 100° C.

reactant | 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 1.13 g | CC=1NC(=C(C(C1C(=O)OCCOCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C21H24N2O8
reactant | sodium borohydride | 80 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-ethoxyethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate | 900 mg | CC=1NC(=C(C(C1C(=O)OCCOCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)CO | C21H26N2O8
